US08871738B2
To a 250 mL RBF was added 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride (0.317 g, 0.487 mmol), tert-butyl 4-bromo-3-methylbenzoate (6.6 g, 24.34 mmol), bis(pinacolato)diboron (7.42 g, 29.2 mmol), potassium acetate (5.97 g, 60.9 mmol) and dioxane (25 mL). The system was flushed with nitrogen and was heated at 125° C. overnight. The reaction was cooled to room temperature and was diluted with ethyl acetate:hexanes (1:9, 120 mL) and then was washed sequentially with water (150 mL) and then brine (50 mL). The organics were dried over sodium sulfate, filtered and concentrated before purification by column chromatography. tert-Butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate was isolated as a crystalline solid (6.6 g, 14.5 mmol). 1H NMR indicated it is about 70% pure. 1H NMR (500 MHz, CDCl3) δ 7.8 (m, 3H), 2.60 (s, 3H), 1.58 (s, 9H), 1.39 (s, 12H).

reactant | tert-butyl 4-bromo-3-methylbenzoate | 24.34 mmol, 6.6 g | BrC1=C(C=C(C(=O)OC(C)(C)C)C=C1)C | C12H15BrO2
reactant | bis(pinacolato)diboron | 29.2 mmol, 7.42 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 60.9 mmol, 5.97 g | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride | 0.487 mmol, 0.317 g | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC=1C=C(C(=O)OC(C)(C)C)C=CC1B1OC(C(O1)(C)C)(C)C | C18H27BO4
